US04183924
G. 17α-(3',4'-Dichlorobenzylthio)-1,4-Androstadiene-3,11-Dione
In a manner similar to that described in Example 1A, 3,4-dichlorobenzylmercaptan is reacted with 17β-methanesulfonyloxy-1,4-androstadiene-3,11-dione to obtain the title compound of this example; m.p.=131°-133° C.; [α]D26 +150° (CHCl3); λmaxMeOH 228 nm (ε=26,000).

reactant | 3,4-dichlorobenzylmercaptan | ClC=1C=C(CS)C=CC1Cl | C7H6Cl2S
reactant | 17β-methanesulfonyloxy-1,4-androstadiene-3,11-dione | CS(=O)(=O)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(C=C[C@]3(C)[C@H]1C(C2)=O)=O | C20H26O5S
product | 17α-(3',4'-Dichlorobenzylthio)-1,4-Androstadiene-3,11-Dione | ClC=1C=C(CS[C@H]2[C@]3(C)[C@@H](CC2)[C@@H]2CCC4=CC(C=C[C@]4(C)[C@H]2C(C3)=O)=O)C=CC1Cl | C26H28Cl2O2S
